US04835167
7,7-Dimethyl-6,7-dihydro-1H,5H-pyrrolo[2,3-f]benzotriazol-6-one
240 mg. (3.5 mMole) sodium nitrite were added portionwise to a suspension of 570 mg. (3 mMole) 5,6-diamino-3,3-dimethylindolin-2-one in 6 ml. 1N hydrochloric acid, the temperature being maintained between 0° and 5° C. by ice cooling. A red solution is obtained which is heated to 50° to 60° C. for 5 minutes. After cooling to ambient temperature, the crystalline precipitate obtained is filtered off with suction and washed with water. There are obtained 380 mg. of the title compound in the form of red crystals; m.p. 288°-291° C. (decomp.).

reactant | sodium nitrite | 3.5 mMole | N(=O)[O-].[Na+]
reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 3 mMole | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | hydrochloric acid | 1N | Cl | ClH
product | 7,7-Dimethyl-6,7-dihydro-1H,5H-pyrrolo[2,3-f]benzotriazol-6-one | CC1(C(NC2=CC3=C(NN=N3)C=C21)=O)C | C10H10N4O
